US09193720B2
To a solution of 3-cyclopropylpyrrolidine (250 mg, 2.25 mmol) and DIEA (1.178 mL, 6.74 mmol) in anhydrous CH3CN (15 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (752 mg, 2.25 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 18 h before being cooled, concentrated, and charged (DCM) to a 40 g ISCO silica gel cartridge and gradient eluted (5-35% EtOAc/hexanes) using an Isolera chromatography station to give isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate 745 mg (81%). 1H NMR (500 MHz, DMSO-d6) δ 5.05-5.00 (m, 1H), 3.25-3.19 (m, 2H), 3.15-3.11 (m, 1H), 2.94-2.90 (m, 1H), 2.62 (s, 3H), 2.36 (s, 3H), 2.06 (br. s., 1H), 1.73-1.69 (m, 2H), 1.29-1.27 (m, 6H), 0.72-0.69 (m, 1H), 0.45-0.40 (m, 2H), 0.16-0.10 (m, 2H). UPLC (M+H)=411.1.

reactant | 3-cyclopropylpyrrolidine | 2.25 mmol, 250 mg | C1(CC1)C1CNCC1 | C7H13N
reactant | DIEA | 6.74 mmol, 1.178 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 2.25 mmol, 752 mg | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | isopropyl 2-(5-bromo-4-(3-cyclopropylpyrrolidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 745 mg, 81% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CC(CC1)C1CC1 | C19H25BrN2O3
